US07893090B2
Description 67: (RS)-2-{1-[1-(2-Trimethylsilanyl-ethoxymethyl)-1H-indol-2-yl]-methanoyl}-piperidine-1-carboxylic acid tert-butyl ester
A stirring, ice-cooled solution of 1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole, D66 (742 mg, 3 mmol) in DME (5 ml) was treated drop-wise with n-butyl lithium (2.2 ml, 1.6M in hexanes, 3.5 mmol). The resulting green solution was stirred at 0-5° C. for 15 min. then was treated with (RS)-1-(tert-butyloxycarbonyl)-2-(N-methoxy-N-methylcarbamoyl)-piperidine, D1 (952 mg, 3.5 mmol) in DME (2.5 ml). After stirring at this temperature for a further 45 min. saturated aqueous NH4Cl was added (10 ml) and the product was extracted with diethyl ether. The organics were combined, the solvent removed in vacuo and the residue chromatographed (silica gel, 10% diethyl ether-pentane) to afford the title compound as a colourless oil (510 mg, 37%).

reactant | 1-(2-trimethylsilanyl-ethoxymethyl)-1H-indole | C[Si](CCOCN1C=CC2=CC=CC=C12)(C)C | C14H21NOSi
reactant | n-butyl lithium | 3.5 mmol, 1.6M, 2.2 ml | C(CCC)[Li]
reactant | (RS)-1-(tert-butyloxycarbonyl)-2-(N-methoxy-N-methylcarbamoyl)-piperidine | C(C)(C)(C)OC(=O)N1C(CCCC1)C(N(C)OC)=O | C13H24N2O4
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DME | 5 ml | COCCOC | C4H10O2
solvent | DME | 2.5 ml | COCCOC | C4H10O2
product | (RS)-2-{1-[1-(2-Trimethylsilanyl-ethoxymethyl)-1H-indol-2-yl]-methanoyl}-piperidine-1-carboxylic acid tert-butyl ester | 510 mg, 37% | C(C)(C)(C)OC(=O)N1C(CCCC1)C(=O)C=1N(C2=CC=CC=C2C1)COCC[Si](C)(C)C | C25H38N2O4Si
